US04032323
Methyl cyanoacetate (99 g.) was added to a stirred solution of ethyl magnesium bromide [prepared by the method well known in the art, from ethyl bromide (328 g.) and magnesium (71 g.)] in diethyl ether, at such a rate that vigorous reflux was maintained. The mixture was then heated at reflux for 40 hours and then treated with a saturated aqueous solution of ammonium chloride (3000 ml.). The ethereal layer was separated off and the aqueous layer was extracted with diethyl ether. The combined ethereal layers were dried over sodium sulphate, the solvent was removed in vacuo, and the residue distilled under reduced pressure to give methyl 3-iminovalerate (33 g.), b.p. 100°-120° C./20 mm Hg.

reactant | Methyl cyanoacetate | 99 g | C(#N)CC(=O)OC | C4H5NO2
reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | ethyl bromide | 328 g | C(C)Br | C2H5Br
reactant | magnesium | 71 g | [Mg] | Mg
reactant | ammonium chloride | 3000 ml | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | methyl 3-iminovalerate | 33 g | N=C(CC(=O)OC)CC | C6H11NO2
